US08383641B2
q.2 (S)-2-(5-Amino-6-methoxy-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
A solution of (S)-2-(6-methoxy-5-nitro-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.11 g, 0.32 mmol) in methanol (11 ml) was hydrogenated using the ThalesNano H-Cube® hydrogenation reactor employing a 10% palladium on charcoal catalyst cartridge. After concentration of the solution under reduced pressure 0.10 g (92.6%) of the title compound were obtained.

reactant | (S)-2-(6-methoxy-5-nitro-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=NC(=C(C=C1)[N+](=O)[O-])OC | C16H23N3O6
solvent | methanol | 11 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | (S)-2-(5-Amino-6-methoxy-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | 0.10 g, 92.6% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=NC(=C(C=C1)N)OC | C16H25N3O4
